data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2C(CC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CCC1(CC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(CC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CCC1(CC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(CC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CCC1(CC)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cccc(C(=O)C2C3CCC2C3)c1F", "products": "COc1cccc([C]([O])C2C3CCC2C3)c1F"}, {"reactants": "COc1cccc([C]([O])C2C3CCC2C3)c1F", "products": "COc1cccc(C([O])=CC2C[CH]CC2)c1F"}, {"reactants": "COc1cccc(C([O])=CC2C[CH]CC2)c1F", "products": "COc1cccc(C(O)=CC2C=CCC2)c1F"}, {"reactants": "COc1cccc(C(O)=CC2C=CCC2)c1F", "products": "COc1cccc(C(=O)CC2C=CCC2)c1F"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(Cl)cc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "COc1cc(Cl)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "COc1cc(Cl)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "COc1cc(Cl)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cc(Cl)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cc(Cl)cc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(Cl)C(C)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(Cl)C1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(Cl)C1(C)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1(C)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(Cl)C1(C)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(C)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(C)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(C)C(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(C)C(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(C)C(Cl)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(F)cc1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)cc1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)cc1C)C(C)C", "products": "Cc1cc(F)ccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "Cc1cc(F)ccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "Cc1cc(F)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "Cc1cc(F)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cc(F)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "Cc1cc(F)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "Cc1cc(F)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(Cl)cc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "Cc1cc(Cl)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "Cc1cc(Cl)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "Cc1cc(Cl)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1cc(Cl)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1cc(Cl)cc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C(=O)C2C3CCC2C3)cc1", "products": "COc1ccc([C]([O])C2C3CCC2C3)cc1"}, {"reactants": "COc1ccc([C]([O])C2C3CCC2C3)cc1", "products": "COc1ccc(C([O])=CC2C[CH]CC2)cc1"}, {"reactants": "COc1ccc(C([O])=CC2C[CH]CC2)cc1", "products": "COc1ccc(C(O)=CC2C=CCC2)cc1"}, {"reactants": "COc1ccc(C(O)=CC2C=CCC2)cc1", "products": "COc1ccc(C(=O)CC2C=CCC2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cc(Cl)cc(C(=O)C2C3CCC2C3)c1", "products": "Cc1cc(Cl)cc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "Cc1cc(Cl)cc([C]([O])C2C3CCC2C3)c1", "products": "Cc1cc(Cl)cc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "Cc1cc(Cl)cc(C([O])=CC2C[CH]CC2)c1", "products": "Cc1cc(Cl)cc(C(O)=CC2C=CCC2)c1"}, {"reactants": "Cc1cc(Cl)cc(C(O)=CC2C=CCC2)c1", "products": "Cc1cc(Cl)cc(C(=O)CC2C=CCC2)c1"}]}
